US04496760
A complex of ortho-(4-ethylbenzoyl)benzoic acid (OEBB acid) is prepared according to U.S. Pat. No. 4,379,092 by reacting 26.6 g phthalic anhydride, 19.07 g ethylbenzyne, 35.9 g HF, and 121.77 g BF3 for 30 minutes at -40° C. After reaction and degassing at -40° C., 144.4 g of a complex solution in HF is obtained. This solution is injected over a 20 minute period into the column described in Example 1. The same temperature and pressure conditions were used and methylene chloride was again selected as the solvent. The methylene chloride reflux rate was 3.8 kg/h. After introducing the complex solution, the solvent reflux was maintained for 20 minutes before evaporating the solvent in the boiler. 43.31 g of crude OEBB acid which contained 39.07 g of OEBB acid was recovered. Also, the recovery rates for BF3 and HF were 99.3% and 99.6%, respectively.

reactant | phthalic anhydride | 26.6 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | ethylbenzyne | 19.07 g | C(C)C=1C#CC=CC1 | C8H8
reactant | BF3 | 121.77 g | B(F)(F)F | BF3
product | ortho-(4-ethylbenzoyl)benzoic acid | C(C)C1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C16H14O3
